US04698349
To a solution of pyridin-2-ylacetic acid hydrochloride (1 g) in N,N-dimethylformamide (10 ml) was added N,N'-carbonyldiimidazole (934 mg) at room temperature and the mixture was heated at 60° C. for 20 minutes. To the mixture was added 2,2-dimethyl-1,3-dioxane-4,6-dione (830 mg) at 60° C. and the mixture was stirred for 1 hour at the same temperature. The solvent was distilled off and the residue was diluted with chloroform and washed with water. The chloroform layer was extracted with aqueous sodium hydrogen carbonate and the aqueous layer was washed with chloroform and acidified to pH 2 with 6N hydrochloric acid at 0° C. and extracted with chloroform. The chloroform layer was washed with brine, dried over magnesium sulfate, and evaporated to give 2-hydroxy-4H-quinolizin-4-one-3carboxylic acid (220 mg).

reactant | pyridin-2-ylacetic acid hydrochloride | 1 g | Cl.N1=C(C=CC=C1)CC(=O)O
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 830 mg | CC1(OC(CC(O1)=O)=O)C | C6H8O4
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-hydroxy-4H-quinolizin-4-one-3carboxylic | 220 mg | OC=1C=C2C=CC=CN2C(C1C(=O)O)=O | C10H7NO4
